US06762180B1
(63) 3-Z-[1-(4-tert.butoxycarbonyl-anilino)-1-ethyl-methylene]-6-ethoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-ethylmethylen)-6-ethoxycarbonyl-2-indolinone and 4-tert.butoxycarbonyl-aniline Rf value: 0.4 (aluminium oxide, methylene chloride/ethanol=20:1) C25H28N2O5

reactant | 1-acetyl-3-(1-ethoxy-1-ethylmethylen)-6-ethoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OCC)=C(CC)OCC)=O | C18H21NO5
reactant | 4-tert.butoxycarbonyl-aniline | C(C)(C)(C)OC(=O)C1=CC=C(N)C=C1 | C11H15NO2
product | 3-Z-[1-(4-tert.butoxycarbonyl-anilino)-1-ethyl-methylene]-6-ethoxycarbonyl-2-indolinone | C(C)(C)(C)OC(=O)C1=CC=C(N\C(\CC)=C\2/C(NC3=CC(=CC=C23)C(=O)OCC)=O)C=C1 | C25H28N2O5
